US08202865B2
Step 2: tert-butyl N-{5-[amino(hydroxyimino)methyl]-2-fluorobenzyl}-N-methylglycinate
Hydroxylamine (50% in water) (539.42 μL; 8.98 mmol; 5 eq.) was added to a solution of tert-butyl N-(5-cyano-2-fluorobenzyl)-N-methylglycinate, obtained in step 1 (500 mg; 1.80 mmol; 1 eq.) in EtOH (20 mL) and the resulting mixture was stirred at RT for 24 hours. Solvent was evaporated in vacuo and the resulting oily residue was freeze-dried to afford the title compound as a colourless oil (602 mg; quantitative). 1H NMR (DMSO-d6, 300 MHz) δ 9.61 (br s, 1H), 7.73 (dd, J=7.3, 2.3 Hz, 1H), 7.62-7.56 (m, 1H), 7.20-7.12 (m, 1H), 5.81 (s, 2H), 3.71 (s, 2H), 3.20 (s, 2H), 2.28 (s, 3H), 1.43 (s, 9H). LC/MS (Method B): 310.1 (M−H)−, 312.2 (M+H)+.

reactant | Hydroxylamine | 8.98 mmol, 539.42 μL, 5 eq. | NO | H3NO
reactant | tert-butyl N-(5-cyano-2-fluorobenzyl)-N-methylglycinate | C(#N)C=1C=CC(=C(CN(CC(=O)OC(C)(C)C)C)C1)F | C15H19FN2O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-butyl N-{5-[amino(hydroxyimino)methyl]-2-fluorobenzyl}-N-methylglycinate | 602 mg | NC(C=1C=CC(=C(CN(CC(=O)OC(C)(C)C)C)C1)F)=NO | C15H22FN3O3
